US07157491B2
4-(4-Hydroxyphenyl)-1-naphthaldehyde oxime
A mixture of 4-[4-(tert-butyldimethylsilanyloxy)-phenyl]-naphthalene-1-carbaldehyde (510 mg, 1.40 mmol), hydroxylamine hydrochloride (196 mg, 2.82 mmol), and anhydrous pyridine (0.228 ml, 2.82 mmol) in MeOH (3.2 ml) was heated to reflux for 3 h. The mixture was then concentrated under reduced pressure and dissolved in ether (5 ml). Then 1.0 M TBAF in THF (5.1 ml, 4.2 mmol) was added and stirred for 5 minutes. To the reaction was added water (5 ml) and then extracted with EtOAc. The organics were dried over anhydrous Na2SO4 and passed through a silica plug. Evaporation of the solvent and purification by column chromatography (10% MeOH-EtOAc) afforded 150 mg (41%) of product as a white solid: mp 200.0–200.5° C.; 1H NMR (300 MHz, DMSO-d6): δ 6.93 (2H, d, J=8.0 Hz), 7.29 (2H, d, J=8.0 Hz), 7.42 (1H, d, J=7.3 Hz), 7.54 (1H, appt, J=7.6 Hz). 7.61 (1H, appt, J=7.6 Hz), 7.83 (1H, d, J=7.3), 7.92 (1H, d, J=8.4 Hz), 8.73 (1H, d, J=8.4 Hz), 8.81 (1H, s), 9.66 (1H,s), 11.45 (1H, s); MS (ESI) m/z 262 ([M−H]−).

reactant | 4-[4-(tert-butyldimethylsilanyloxy)-phenyl]-naphthalene-1-carbaldehyde | 1.40 mmol, 510 mg | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C1=CC=C(C2=CC=CC=C12)C=O | C23H26O2Si
reactant | hydroxylamine hydrochloride | 2.82 mmol, 196 mg | Cl.NO
reactant | pyridine | 2.82 mmol, 0.228 ml | N1=CC=CC=C1 | C5H5N
reactant | TBAF | 1.0 M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | THF | 4.2 mmol, 5.1 ml | C1CCOC1 | C4H8O
solvent | MeOH | 3.2 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 4-(4-Hydroxyphenyl)-1-naphthaldehyde oxime | 150 mg, 41% | OC1=CC=C(C=C1)C1=CC=C(C2=CC=CC=C12)C=NO | C17H13NO2
